US07226923B2
7-Morpholino-2-Isopropyl-4-bromo-2H-phthalazin-1-one
To a solution of 7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one (0.8 g, 0.0028 mol) in DMF (8 ml), was added potassium carbonate (2 g, 0.014 mol). After five minutes, bis (2-chloroethyl)ether (0.41 g, 0.0028 mol) was added and the solution was heated to 140° C. for 24 hours. After this time LC-MS indicated the complete consumption of starting material and the mixture was cooled, concentrated under vacuum and purified by flash column chromatography (elution: 70% heptane, 30% ethyl acetate) to give the title compound (0.2 g, 20% yield) as a white solid.

reactant | 7-Amino-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 0.0028 mol, 0.8 g | NC1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C11H12BrN3O
reactant | potassium carbonate | 0.014 mol, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis (2-chloroethyl)ether | 0.0028 mol, 0.41 g | ClCCOCCCl | C4H8Cl2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 7-Morpholino-2-Isopropyl-4-bromo-2H-phthalazin-1-one | 0.2 g, 20% yield | O1CCN(CC1)C1=CC=C2C(=NN(C(C2=C1)=O)C(C)C)Br | C15H18BrN3O2
